US09079865B2
To a mixture of isopropyl propiolate (350 g, 3.1 moles) in AcOH (1300 mL) was added NaI (930 g, 6.2 moles) at 25° C. The reaction mixture was heated to 115° C. and stirred for 1.5 hrs. The reaction mixture was cooled to 25 to 30° C. and quenched with water followed by extraction with MTBE. The organic layer was washed with saturated bicarbonate, bisulfite and brine solution. The organic layer was dried over sodium sulfate and concentrated under vacuum to give the product (Z)-isopropyl 3-iodoacrylate (626 g; 83.5%). Product was confirmed by 1H NMR.

reactant | isopropyl propiolate | 3.1 moles, 350 g | C(C#C)(=O)OC(C)C | C6H8O2
reactant | NaI | 6.2 moles, 930 g | [Na+].[I-]
solvent | AcOH | 1300 mL | CC(=O)O | C2H4O2
product | (Z)-isopropyl 3-iodoacrylate | 626 g, 83.5% | I\C=C/C(=O)OC(C)C | C6H9IO2
